US06498159B1
11.0 g of 1-benzyl-4-piperidinecarbonitrile was dissolved in 100 ml 1,2-dichloroethane, 7.1 ml 1-chloroethyl chloroformate was added thereto under ice-cooling. The mixture was stirred at room temperature for 15 min, and then heated under reflux for 1 hr and 20 min. After evaporating, 50 ml methanol was added thereto and it was heated under reflux for 1 hr. The reaction solution was evaporated, and the crystalline residue was washed with ethyl acetate and collected by filtration to give 8.0 g of 4-piperidinecarbonitrile hydrochloride as white crystals.

reactant | 1-benzyl-4-piperidinecarbonitrile | 11.0 g | C(C1=CC=CC=C1)N1CCC(CC1)C#N | C13H16N2
reactant | 1-chloroethyl chloroformate | 7.1 ml | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | 1,2-dichloroethane | 100 ml | ClCCCl | C2H4Cl2
product | 4-piperidinecarbonitrile hydrochloride | 8.0 g | Cl.N1CCC(CC1)C#N | InChI=1S/C6H10N2.ClH/c7-5-6-1-3-8-4-2-6;/h6,8H,1-4H2;1H
